US06660744B1
A solution containing cis-4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenol (100 mg, 0.245 mmol), 2,3-dichlorobenzenesulfonyl chloride (180 mg, 0.735 mmol) and triethylamine (0.34 mL, 2.45 mmol) in dichloromethane (8 mL) was stirred at ambient temperature for 17 h. Additional dichloromethane was added (20 mL) and the reaction was washed with brine (10 mL), saturated aqueous NaHCO3 (10 mL), dried (Na2SO4) and concentrated under reduced pressure to afford cis-4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl 2,3-dichloro-1-benzenesulfonate as a white solid (135 mg, 90%); RP-HPLC 11.787 min, 97% purity (5% to 85% acetonitrile/0.1M aqueous ammonium acetate, buffered to pH 4.5, over 20 min at 1 mL/min; λ=254 nm; Deltapak C18, 300 Å, 5 μm, 150×3.9 mm column); m/z (MH+)=616.2.

reactant | cis-4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenol | 0.245 mmol, 100 mg | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)O)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C22H29N7O
reactant | 2,3-dichlorobenzenesulfonyl chloride | 0.735 mmol, 180 mg | ClC1=C(C=CC=C1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | triethylamine | 2.45 mmol, 0.34 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | cis-4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl 2,3-dichloro-1-benzenesulfonate | 135 mg, 90% | ClC1=C(C=CC=C1Cl)S(=O)(=O)OC1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C28H31Cl2N7O3S
